US06486333B1
Synthesis of N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(octanoylamino)propyl)ammonium chloride
A 22.84 g (0.100 mol) portion of N-octanoyl-N′,N′-dimethyl-1,3-diaminopropane and 250 ml of diethyl ether were put into a flask, and 24.23 g (0.105 mol) of geranyl chloroacetate was added thereto at 0 to 5° C. spending 10 minutes. The reaction mixture was stirred at 5 to 25° C. for 24 hours, and disappearance of the most part of chloroacetate was confirmed by 1H-NMR. Next, the reaction mixture was slowly added dropwise to 650 ml of pentane which was ice-cooled and vigorously stirred, spending 10 minutes, to effect precipitation of the product as a white solid. Thereafter, in the same manner as described in Inventive Example 1, the title compound (to be referred to as betaine ester (4) hereinafter) was obtained as a light yellow viscous oil. Yield 38.2 g (0.0832 mol; yield 83.2%).

reactant | N-octanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCC)(=O)NCCCN(C)C | C13H28N2O
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
reactant | geranyl chloroacetate | 0.105 mol, 24.23 g | ClCC(=O)OC\C=C(/C)\CCC=C(C)C | C12H19ClO2
reactant | chloroacetate | ClCC(=O)[O-]
solvent | pentane | 650 ml | CCCCC | C5H12
product | N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(octanoylamino)propyl)ammonium chloride | yield 83.2% | [Cl-].C[N+](CCCNC(CCCCCCC)=O)(CC(=O)OC\C=C(/C)\CCC=C(C)C)C | InChI=1S/C25H46N2O3.ClH/c1-7-8-9-10-11-16-24(28)26-18-13-19-27(5,6)21-25(29)30-20-17-23(4)15-12-14-22(2)3;/h14,17H,7-13,15-16,18-21H2,1-6H3;1H/b23-17+;
